US08912188B2
To a solution of methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (250 mg, crude) in dioxane (2 mL) was added benzo[b]thiophen-2-ylboronic acid (180 mg, 1.00 mmol), K3PO4 (210 mg, 1.00 mmol) and Pd(PPh3)4 (29 mg, 0.025 mmol) under nitrogen atmosphere. After stirring 1 h at 90° C., the reaction mixture was dissolved in water (25 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by silica gel column chromatography eluting with 2% ethyl acetate in petroleum ether to afford methyl 3-(azepan-1-yl)-2-(benzo[b]thiophen-2-yl)quinoxaline-6-carboxylate as a light yellow solid (82 mg).

reactant | methyl 3-(azepan-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 250 mg | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
reactant | benzo[b]thiophen-2-ylboronic acid | 1.00 mmol, 180 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | K3PO4 | 1.00 mmol, 210 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(azepan-1-yl)-2-(benzo[b]thiophen-2-yl)quinoxaline-6-carboxylate | 82 mg | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC2=C(S1)C=CC=C2 | C24H23N3O2S
